US04806558
2-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-1-[4-(1H-tetrazol-5-yl)-phenyl]-acetylene
2.15 g (0.033 mole) of sodium azide, 1.77 g (0.033 mole) of ammonium chloride and 9.2 g (0.03 mole) of 4-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-ethynyl]-benzonitrile in 30 ml of absolute dimethylformamide were stirred for 12 hours at 120° C. The cooled reaction mixture was then poured onto 0.5 liter of water and acidified with a little hydrochloric acid. The crystals which had separated out were filtered off under suction, washed on the filter several times with water and then with methanol, sucked dry while hot, and dried in a stream of nitrogen. 9.0 g (84%) of the title compound of melting point 227°-228° C. were obtained.

reactant | sodium azide | 0.033 mole, 2.15 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.033 mole, 1.77 g | [Cl-].[NH4+]
reactant | 4-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-ethynyl]-benzonitrile | 0.03 mole, 9.2 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C#CC1=CC=C(C#N)C=C1)C | C23H23N
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 0.5 liter | O | H2O
product | 2-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-1-[4-(1H-tetrazol-5-yl)-phenyl]-acetylene | 9.0 g, 84% | CC1(C=2C=CC(=CC2C(CC1)(C)C)C#CC1=CC=C(C=C1)C1=NN=NN1)C | C23H24N4
